US06667398B2
2-ethoxy-5-(4-methyl-1-piperazinylsulfonyl)benzonitrile
Triethylamine (49.1 g, 0.485 Mol) was added to a slurry of 2-ethoxy-5-(4-methyl-1-piperazinylsulfonyl)benzamide (40.9 g, 0.125 Mol) in dichloromethane (200 mL) and this mixture was cooled to 0° C. Trifluoroacetic anhydride (58.9 g, 0.28 Mol) was added dropwise over 45 min and was washed in with DCM (25 mL) before the reaction was stirred at ambient temperature for 18 h. Water (125 mL) was added to the reaction with cooling. The layers were separated and the organic phase was washed with water before evaporation. The residue was stirred with ethyl acetate (150 mL) giving a crystalline solid which was filtered off and dried under vacuum; 27.4 g, 71%. m.p.=130-131° C. M/Z=310 (M+H); 1H NMR (300 MHz, CDCl3): 1.55 (t, 3H), 2.30 (s, 3H), 2,50 (m, 4H), 3.06 (m, 4H), 4.26 (quart. 2H), 7.08 (d, 1H), 7.90 (dd, 1H), 7.97 (d, 1H)

reactant | Triethylamine | 0.485 Mol, 49.1 g | C(C)N(CC)CC | C6H15N
reactant | 2-ethoxy-5-(4-methyl-1-piperazinylsulfonyl)benzamide | 0.125 Mol, 40.9 g | C(C)OC1=C(C(=O)N)C=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C14H21N3O4S
reactant | Trifluoroacetic anhydride | 0.28 Mol, 58.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-ethoxy-5-(4-methyl-1-piperazinylsulfonyl)benzonitrile | C(C)OC1=C(C#N)C=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C14H19N3O3S
